US08633313B2
To a solution of 2-(3-fluorophenyl)-1,5-naphthyridine-3-carbonitrile (0.175 g, 0.702 mmol) in dichloromethane (9.93 mL, 0.702 mmol) at −78° C. was added diisobutylaluminum hydride 1.0 M in dichloromethane (1.40 mL, 1.40 mmol, 2 eqv.) dropwise over 3 min with stirring and the mixture was allowed to warm to 15° C. with stirring over 24 h. The mixture was cooled to −78° C. To the cooled mixture was added diisobutylaluminum hydride 1.0 M in dichloromethane (0.702 mL, 0.702 mmol, 1 eqv.) dropwise and the mixture was stirred at −78° C. for further 2 h. After 26 h, the mixture was cooled in ice water bath and quenched by addition of 1 N aq. HCl (4.21 mL, 4.21 mmol) at 0° C. and stirred. After 1.5 h, to the mixture was added potassium acetate (0.413 g, 4.21 mmol). The organic layer was separated and the aq. layer was extracted with CH2Cl2 (50 mL×2). The combined organic layers were washed saturated NaHCO3 (50 mL×1), brine (50 mL×1), dried over Na2SO4, filtered, and concentrated at reduced pressure to give an orange solid. The orange solid was purified by silica gel column chromatography on a 40 g of Redi-Sep™ column using 0 to 100% gradient of EtOAc in hexane over 14 min and then 100% isocratic of EtOAc for 5 min as eluent to give 2-(3-fluorophenyl)-1,5-naphthyridine-3-carbaldehyde as a yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 10.15 (1H, s), 9.17 (1H, dd, J=4.1, 1.8 Hz), 8.90 (1H, d, J=0.8 Hz), 8.54-8.59 (1H, m, J=8.6, 1.0, 0.8, 0.8 Hz), 7.98 (1H, dd, J=8.6, 4.1 Hz), 7.59-7.67 (2H, m), 7.53-7.58 (1H, m), 7.39-7.47 (1H, m); LC-MS (ESI) m/z 252.9 [M+H]+.

reactant | 2-(3-fluorophenyl)-1,5-naphthyridine-3-carbonitrile | 0.702 mmol, 0.175 g | FC=1C=C(C=CC1)C1=NC2=CC=CN=C2C=C1C#N | C15H8FN3
reactant | dichloromethane | 0.702 mmol, 9.93 mL | ClCCl | CH2Cl2
reactant | diisobutylaluminum hydride | 1.0 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | dichloromethane | 1.40 mmol, 1.40 mL, 2 eqv. | ClCCl | CH2Cl2
reactant | diisobutylaluminum hydride | 1.0 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | dichloromethane | 0.702 mmol, 0.702 mL, 1 eqv. | ClCCl | CH2Cl2
reactant | HCl | 4.21 mmol, 1 N, 4.21 mL | Cl | ClH
reactant | potassium acetate | 4.21 mmol, 0.413 g | C(C)(=O)[O-].[K+]
product | 2-(3-fluorophenyl)-1,5-naphthyridine-3-carbaldehyde | FC=1C=C(C=CC1)C1=NC2=CC=CN=C2C=C1C=O | C15H9FN2O
